US08980911B2
To a stirred solution of 2,6-dichloro-4-(hydroxymethyl)benzoic acid (219 mg, 0.99 mmol), 1-hydroxy-7-azabenzotriazole (202 mg, 1.48 mmol), dimethylaminopyridine (60 mg, 0.49 mmol) and 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (567 mg, 1.48 mmol) in N,N-dimethylaniline, N-(1H-pyrrolo[3,2-c]pyridin-4-yl)cyclopropanecarboxamide (200 mg, 0.99 mmol) was added followed by N,N-diisopropylethylamine (0.25 ml, 1.48 mmol). The reaction mixture was stirred at room temperature for 15 hours. The contents were diluted with water and extracted with ethyl acetate. The combined organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated. The crude compound was purified by silica gel column chromatography using methanol in dichloromethane (3%) as eluent to yield N-{1-[2,6-dichloro-4-(hydroxymethyl)benzoyl]-1H-pyrrolo[3,2-c]pyridin-4-yl}cyclopropanecarboxamide (45 mg, 11%).

reactant | 2,6-dichloro-4-(hydroxymethyl)benzoic acid | 0.99 mmol, 219 mg | ClC1=C(C(=O)O)C(=CC(=C1)CO)Cl | C8H6Cl2O3
reactant | 1-hydroxy-7-azabenzotriazole | 1.48 mmol, 202 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | dimethylaminopyridine | 0.49 mmol, 60 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 1.48 mmol, 567 mg | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | N-(1H-pyrrolo[3,2-c]pyridin-4-yl)cyclopropanecarboxamide | 0.99 mmol, 200 mg | N1C=CC=2C(=NC=CC21)NC(=O)C2CC2 | C11H11N3O
reactant | N,N-diisopropylethylamine | 1.48 mmol, 0.25 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
solvent | water | O | H2O
product | N-{1-[2,6-dichloro-4-(hydroxymethyl)benzoyl]-1H-pyrrolo[3,2-c]pyridin-4-yl}cyclopropanecarboxamide | 45 mg, 11% | ClC1=C(C(=O)N2C=CC=3C(=NC=CC32)NC(=O)C3CC3)C(=CC(=C1)CO)Cl | C19H15Cl2N3O3
